US08372807B2
A mixture of ethyl 2-methyl-2-(5-methyl-4-(naphthalen-1-yl)-1H-pyrazol-3-yloxy)propanoate (60 mg, 0.18 mmol), aqueous sodium hydroxide solution (10%, 5 mL) and methanol (5 mL) was stirred at reflux for 2 hours. The reaction was then cooled to room and the methanol removed. Water was added, neutralized with aqueous HCl solution (1N) and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated. Purification by preparative thin layer chromatography (95% dichloromethane/5% methanol) afforded compound 2-methyl-2-(5-methyl-4-(naphthalen-1-yl)-1H-pyrazol-3-yloxy)propanoic acid as a solid (40 mg, 71%).

reactant | ethyl 2-methyl-2-(5-methyl-4-(naphthalen-1-yl)-1H-pyrazol-3-yloxy)propanoate | 0.18 mmol, 60 mg | CC(C(=O)OCC)(C)OC1=NNC(=C1C1=CC=CC2=CC=CC=C12)C | C20H22N2O3
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-methyl-2-(5-methyl-4-(naphthalen-1-yl)-1H-pyrazol-3-yloxy)propanoic acid | 40 mg, 71% | CC(C(=O)O)(C)OC1=NNC(=C1C1=CC=CC2=CC=CC=C12)C | C18H18N2O3
